US07691888B2
R-6) cis-4-(Pyrrolidin-1-yl)cyclohexanecarboxylic acid
1,4-Dichlorobutane (2.3 ml, 21 mmol), potassium carbonate (12.6 g, 91 mmol) and potassium iodide (400 mg) are added to a solution of methyl cis-4-aminocyclo-hexanecarboxylate hydrochloride (4 g, 21 mmol) in 32 ml of DMF and the mixture is stirred at 100° C. for 6 h and then at RT for 3 d. The reaction mixture is diluted with 200 ml of water, neutralized with glacial acetic acid, saturated with sodium chloride and extracted with dichloromethane. The organic phases are dried, filtered and evaporated. Yield: 3.8 g of methyl cis-4-(pyrrolidin-1-yl)cyclohexanecarboxylate. The intermediate is then stirred, in 10 ml of methanol, with 25 ml of sodium hydroxide solution (1 N) at RT for 15 h. After the methanol has been removed in vacuo, the reaction mixture is adjusted to pH 6 with hydrochloric acid and evaporated further. The residue is taken up in methanol and purified by filtration through silica gel. Yield: 3.5 g.

reactant | 1,4-Dichlorobutane | 21 mmol, 2.3 ml | ClCCCCCl | C4H8Cl2
reactant | potassium carbonate | 91 mmol, 12.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 400 mg | [I-].[K+]
reactant | methyl cis-4-aminocyclo-hexanecarboxylate hydrochloride | 21 mmol, 4 g | Cl.N[C@H]1CC[C@H](CC1)C(=O)OC
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 32 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | cis-4-(Pyrrolidin-1-yl)cyclohexanecarboxylic acid | N1(CCCC1)[C@H]1CC[C@H](CC1)C(=O)O | C11H19NO2
